US07745229B2
In a 25 mL round bottomed flask equipped with a magnetic stirrer, were placed in order, 37.4% HCl (5 mL), stannous chloride dihydrate (1.6 g, 7.12 mmol). To this suspension 3-nitro-7-diethylamino coumarin (0.25 g, 0.95 mmol) was added at room temperature in small portions, over a period of thirty minutes. Stirring was continued for 4 h before the solution was poured onto 20 g of ice and made alkaline using sodium hydroxide solution (5 M) at 15° C. using an ice-water bath. The resulting suspension was then extracted with diethyl ether (2×25 mL). The organic layer washed with water (50 mL), dried over anhydrous sodium sulfate and concentrated to a pasty residue which upon triturating using hexane yielded 3-amino-7-diethylaminocoumarin as a pale yellow solid: 0.15 g, 68%. A small amount of this compound was recrystallized in ethyl acetate/hexane to give an analytical sample; mp 85-87° C. IR (KBr): 3323, 3398 (m), 1697 (m), 1589 (m), 1517 (m). 1H NMR (CDCl3, 300 MHz) δ 1.27 (t, J=7.17 Hz, 6H), 3.48 (q, J=7.22 Hz, 4H), 3.85 (s, 2H), 6.6 (m, 2H), 6.7 (s, 1H), 7.10 (d, J=8.65 Hz, 1H). HRMS m/e calculated for MH+ C13H16N2O2 233.1282; found 233.1290.

reactant | HCl | 5 mL | Cl | ClH
reactant | 3-nitro-7-diethylamino coumarin | 0.95 mmol, 0.25 g | [N+](=O)([O-])C=1C(OC2=CC(=CC=C2C1)N(CC)CC)=O | C13H14N2O4
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
product | 3-amino-7-diethylaminocoumarin | NC=1C(OC2=CC(=CC=C2C1)N(CC)CC)=O | C13H16N2O2
